US07977362B2
DAST (4-dimethylamino-N-methyl-4-stilbazolium tosylate, 9 μL, 0.06 mmol) was added to a solution of 4-chloro-N-(2-fluoro-4-(oxazol-2-yl)benzyl)-N-((1R,2R)-2-(hydroxymethyl)cyclohexyl)benzenesulfonamide (25 mg, 0.05 mmol) in 2 mL anhydrous methylene chloride at −20° C. The reaction was stirred at room temperature for 1 h, then purified by flash chromatography on silica gel with 0 to 50% ethyl acetate in hexane to yield 4-chloro-N-(2-fluoro-4-(oxazol-2-yl)benzyl)-N-((1R,2R)-2-(fluoromethyl)cyclohexyl)benzenesulfonamide (8 mg, 33%). 1H NMR (400 MHz, CDCl3) δ ppm 7.82 (1H, dd, J=8.06, 1.51 Hz), 7.69-7.78 (4H, m), 7.67 (1H, dd, J=10.83, 1.51 Hz), 7.40-7.49 (2H, m), 7.23-7.26 (1H, m), 4.46 (2H, dd, J=34.50, 15.61 Hz), 3.97-4.22 (2H, m), 3.58 (1H, br. s.), 1.75-1.76 (1H, m), 1.59-1.74 (3H, m), 1.46 (2H, br. s.), 0.94-1.30 (3H, m). 19F NMR (376 MHz, CDCl3) δ ppm −111.85 (s), −118.19 (s). Analytical HPLC R.T.=25.91 min. MS [M+H]30 =481, [M+Na+]=503. HRMS [M+H]+ calc'd 481.1164, found 481.1176. Chiral LC: R.T.=6.08 min., >96% ee.

reactant | DAST | 0.06 mmol, 9 μL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | 4-chloro-N-(2-fluoro-4-(oxazol-2-yl)benzyl)-N-((1R,2R)-2-(hydroxymethyl)cyclohexyl)benzenesulfonamide | 0.05 mmol, 25 mg | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@@H](CCCC1)CO)CC1=C(C=C(C=C1)C=1OC=CN1)F | C23H24ClFN2O4S
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-(2-fluoro-4-(oxazol-2-yl)benzyl)-N-((1R,2R)-2-(fluoromethyl)cyclohexyl)benzenesulfonamide | 8 mg, 33% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@@H](CCCC1)CF)CC1=C(C=C(C=C1)C=1OC=CN1)F | C23H23ClF2N2O3S
